US08350029B2
Preparation of 6-(3-chloropropoxy)-7-methoxy-4-chloroquinazoline (Formula VI)
6-(3-chloropropoxy)-7-methoxyquinazoline-4-one (400 gm), thionyl chloride (3.2 lt) and DMF (100 ml) were refluxed for 7-8 hours. Thionyl chloride was distilled off completely under reduced pressure below 45° C. Methylene chloride (2.5 lt) and water (1.5 lt) were charged, stirred for 30 minutes at room temperature and the layers separated. The aqueous layer was extracted twice with methylene chloride (500 ml), the combined methylene chloride layer was washed with 1% sodium bicarbonate solution (1 lt), dried over sodium sulphate (20 gm) and concentrated under reduced pressure at 35-40° C. The residue was stirred with isopropyl alcohol (400 ml) at 40-45° C. for 1 hour, cooled to 0-5° C., the solids filtered, washed with chilled isopropyl alcohol (200 ml) and dried under vacuum at 45° C. to yield the title compound (406 gm, 95% yield).

reactant | 6-(3-chloropropoxy)-7-methoxyquinazoline-4-one | 400 gm | ClCCCOC=1C=C2C(NC=NC2=CC1OC)=O | C12H13ClN2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-(3-chloropropoxy)-7-methoxy-4-chloroquinazoline | 406 gm, 95% yield | ClCCCOC=1C=C2C(=NC=NC2=CC1OC)Cl | C12H12Cl2N2O2
